US06589761B1
Tetrabromophenolphthalein (yellow-brown)
Tetrabromophenolphthalein ethyl ester, potassium salt (yellow-brown)

reactant | Tetrabromophenolphthalein ethyl ester | CCOC(=O)C1=CC=CC=C1C(=C2C=C(C(=O)C(=C2)Br)Br)C3=CC(=C(C(=C3)Br)O)Br | C22H14Br4O4
reactant | potassium | [K] | K
product | Tetrabromophenolphthalein | C1=CC=C2C(=C1)C(=O)OC2(C3=CC(=C(C(=C3)Br)O)Br)C4=CC(=C(C(=C4)Br)O)Br | C20H10Br4O4
